US05962529
N-Hydroxy-2-[octyl-(toluene-4-sulfonyl)amino]-acetamide
N-Benzyloxy-2-[octyl-(toluene-4-sulfonyl)amino]-acetamide (1.91 g, 0.0043 mol) was taken up in ethanol (150 ml), and 10% palladium on charcoal (800 mg) was added. Hydrogen gas was bubbled through the mixture for 2 hours at room temperature. The catalyst was removed by filtration and the solvent was removed under reduced pressure to give a crude solid which was purified by recrystallization from ethyl acetate/hexane (940 mg, 61%). m.p. 89° C.; 1H-NMR; δ (CDCl3), 7.69 (2H, d, J=8.2 Hz), 7.32 (2H, d, J=8.2 Hz), 3.76 (2H, s), 3.15 (1H, d, J=7.6 Hz), 3.12 (1H, d, J=7.9 Hz), 2.43 (3H, s), 1.58-1.41 (2H, m), 1.35-1.15 (10H, m) and 0.86 (3H, t, J=6.4 Hz). 13C-NMR; δ (CDCl3), 166.6, 144.2,134.6, 129.9, 127.4, 50.7, 49.9, 31.6, 29.1, 29.0, 27.9, 26.6, 22.6, 21.5 and 14.0; IR (CDCl3), vmax 3413, 2929, 2858, 1682, 1467, 1401, 1346, 1162 and 1091 cm-1. Found: C 57.27, H 7.87, N 7.95%; C17H28N2O4S requires C 57.28, H 7.92, N 7.86%.

reactant | N-Benzyloxy-2-[octyl-(toluene-4-sulfonyl)amino]-acetamide | 0.0043 mol, 1.91 g | C(C1=CC=CC=C1)ONC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CCCCCCCC)=O | C24H34N2O4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 800 mg | [Pd] | Pd
product | N-Hydroxy-2-[octyl-(toluene-4-sulfonyl)amino]-acetamide | ONC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CCCCCCCC)=O | C17H28N2O4S
